US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxybenzenesulfonamide
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide (145 mg, 0.23 mmol) was treated with boron tribromide (1M in dichloromethane, 0.7 ml, 0.7 mmol) IN dichloromethane (5 ml) according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 40 mg (28% yield) as a solid. Purity 99%.

reactant | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide | 0.23 mmol, 145 mg | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H30N8O4S
reactant | boron tribromide | 0.7 mmol, 1M, 0.7 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxybenzenesulfonamide | 28% yield | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H28N8O4S
